US06849607B2
Mesopurpurin-18-N-methyl-(2′-butadiene)imide (4).
Galactose-Chlorin conjugate joined with 1,3-cyclohexadiene linkage (10, 3a): To a solution of 40 mg (0.035 mmol) of 9 in 20 ml of dichloromethane, 250 μl of 1M NaOMe in MeOH was added, the reaction mixture was stirred under argon for 1 h. After the standard work-up, the residue was separated by silica plate chromatography, eluting with 8% MeOH/CH2CL2 and the title compound was obtained in 44% yield (15 mg) along with 7 mg (0.009 mmol) of 11 in 25% yield. MS (FAB) found: m/z 980.9 (100, M++1); 1H NMR (400 MHz, 5.0 mg/mL CDCl3, δ ppm) showing a diastereomeric mixture: 9.53 (s, 2H, 2×10-H); 9.15 (s, 2H, 2×5-H); 8.46 (s, 2H, 2×20-H); 7.49 and 7.46 (each s, total 2H, 2×135-H); 6.29 and 6.04 (each s, total 2H, 2×138-H); 5.30 (m, 2H, 2×17-H); 5.14 (m, 2H, 2×133-H); 4.98 (m, 2H, 2×133-H); 4.29 (m, 2H, 2×18-H); 4.18 (m, 2H, 2×Gal-H); 4.04 and 3.99 (each s, total 2H, 2×1310-H); 3.85 (m, 4H, 4×Gal-H); 3.77 (s, 6H, 2×12-CH3); 3.75 (m, 4H, 2×3-CH2CH3); 3.70 (m, 4H, 4×Gal-H); 3.63 (m, 2H, 2×Gal-H); 3.60 (m, 4H, 2×8-CH2CH3); 3.53 (s, 6H, 2×173-CO2CH3); 3.43 and 3.38 (each m, 4H, 4×139-H); 3.35 (m, 2H, 2×1310-H); 3.21 (s, 6H, 2×2-CH3); 3.13 (s, 6H, 2×7-CH3); 2.64 (m, 2H, 2×171-H); 2.61 (s, 6H, 2×137-CO2CH3); 2.33 (m, 4H, 2×171-H and 2×172-H); 2.15 (s, 6H, 2×138-CO2CH3); 1.93 (m, 2H, 2×172-H); 1.74 (d, 6H, 2×18-CH3); 1.68 (t, 6H, 2×3-CH2CH3); 1.65 (t, 6H, 2×8-CH2CH3); 0.17 and −0.12 (each br s, 2H, 4×NH). Mesopurpurin-18-N-1′-(5-methyl-3,4-dicarboxylate methyl ester)phenyl-methyl-imide (11): MS (FAB) found: m/z 801.4 (100, M++1); 1H NMR (400 MHz, 5.0 mg/mL CDCl3, δ ppm): 9.61, 9.20 and 8.50 (each s, 1H, 5-H, 10-H and 20-H); 8.18 and 7.76 (each s, 1H, 2×phenyl-H); 5.70 (m, 2H, J=9.8 Hz, N—CH2); 5.36 (d, J=9.1 Hz, 1H, 17-H); 4.34 (q, J=7.1 Hz, 1H, 18-H); 3.92, 3.87, 3.83, 3.56, 3.25 and 3.19 (each s, 3H, 4×CH3 and 2×CO2CH3); 3.77 and 3.66 (each q, J=8.4 Hz, 2H, 3- and 8-CH2CH3); 2.67 (m, 1H, 1×17CH2CH2CO2CH3); 2.39 (m, 2H, 1×17CH2CH2CO2CH3 and 1×17CH2CH2CO2CH3); 2.37 (s, 3H, phenyl-CH3); 1.99 (m, 1H, 1×17CH2CH2CO2CH3); 1.77 (d, J=7.2 Hz, 3H, 18-CH3); 1.72 and 1.68 (each t, J=8.0 Hz, 3H, 3- and 8-CH2CH3); 0.20 and −0.01 (each br s, 1H, 2N—H).

reactant | Galactose Chlorin | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO.C1CC2=NC1=CC3=CC=C(N3)C=C4C=CC(=N4)C=C5C=CC(=C2)N5
reactant | 1,3-cyclohexadiene | C1=CC=CCC1 | C6H8
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | NaOMe | 1M, 250 μl | C[O-].[Na+]
solvent | MeOH | CO | CH4O
product | chlorin | 0.009 mmol, 7 mg, 44% yield | C1CC2=NC1=CC3=CC=C(N3)C=C4C=CC(=N4)C=C5C=CC(=C2)N5 | C20H16N4
